US09278978B2
G8) 5-bromo-6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine
A mixture of 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine G1 (93 mg, 0.34 mmol), N-bromosuccinimide (61 mg, 0.34 mmol) and ACN (11 ml) is stirred in the dark at RT for 20 h. The mixture is concentrated in vacuo and the product purified by NP chromatography. Yield: 90 mg (75%). HPLC-MS: M+H=350/352; tR=1.18 min (METHOD—5).

reactant | 6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine | C1(=CC=CC=C1)C#CC1=CC(=CC(=N1)N)C1=CC=NC=C1 | C18H13N3
reactant | N-bromosuccinimide | 0.34 mmol, 61 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | ACN | 11 ml | C(C)#N | C2H3N
product | 5-bromo-6-(2-phenylethynyl)-4-(pyridin-4-yl)pyridin-2-amine | BrC=1C(=CC(=NC1C#CC1=CC=CC=C1)N)C1=CC=NC=C1 | C18H12BrN3
